US06642229B2
3-Bromo-7-difluoromethylimidazo[1,2-a]pyrimidine (248 mg, 1.00 mmol) was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(7-difluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile (201 mg, 58%) as a yellow powder: δH (400 MHz, CDCl3) 6.67 (1H, t, J 55) 7.29 (1H, d, J 7), 7.52 (1H, td, J 9 and 1), 7.58-7.74 (5H, m), 7.87 (2H, m), 8.01 (1H, s), 9.12 (1H, d, J 7); m/z (ES+) 347 (M++H).

reactant | 3-Bromo-7-difluoromethylimidazo[1,2-a]pyrimidine | 1.00 mmol, 248 mg | BrC1=CN=C2N1C=CC(=N2)C(F)F | C7H4BrF2N3
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(7-difluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 201 mg, 58% | FC(C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N)F | C20H12F2N4
